US04681895
To N-(o-ethoxycarbonylphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride (25.4 g, 0.063 mole) (which is prepared in the same manner as described in Example 1) is added methanol (130 ml), and the mixture is heated to 50° C., and thereto is added a solution of NaOH (7.16 g, 0.179 mole) in water (65 ml), and the mixture is stirred at 50°-60° C. for 45 minutes. The reaction mixture is ice-cooled, and the white precipitates are separated by filtration, suspended in methanol (100 ml) and dissolved by adding thereto 4N-hydrochloric acid (21 ml). After evaporation of the solvent under reduced pressure, the residue is recrystallized from water-methanol (4:1), and the crystals thus obtained are again recrystallized from water-methanol (3:1) to give N-(o-carboxyphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride (19.3 g) as white crystals. The physical data of this compound are identical with those of N-(o-carboxyphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride as obtained in Example 3.

reactant | N-(o-ethoxycarbonylphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride | 0.063 mole, 25.4 g | Cl.C(C)OC(=O)C1=C(C=CC=C1)NC(=O)[C@@H]1CC[C@H](CC1)CNC(=N)N
reactant | methanol | 130 ml | CO | CH4O
reactant | NaOH | 0.179 mole, 7.16 g | [OH-].[Na+]
solvent | water | 65 ml | O | H2O
product | N-(o-carboxyphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride | 19.3 g | Cl.C(=O)(O)C1=C(C=CC=C1)NC(=O)[C@@H]1CC[C@H](CC1)CNC(=N)N | InChI=1S/C16H22N4O3.ClH/c17-16(18)19-9-10-5-7-11(8-6-10)14(21)20-13-4-2-1-3-12(13)15(22)23;/h1-4,10-11H,5-9H2,(H,20,21)(H,22,23)(H4,17,18,19);1H/t10-,11-;
